US07846925B2
1 g of AlCl3 were suspended in 10 ml DCM, 0.5 ml of nitromethane were added to dissolve AlCl3, and the solution was cooled to 0° C. 4-Methyl-4H-benzo[1,4]oxazin-3-one (0.5 g, 3.06 mmol) dissolved in DCM was added to the above solution and stirred for 15 minutes at 0° C. To this solution was further added 0.36 ml of bis-chloromethyl-methylether in DCM. The reaction was stirred at 0° C. for 15 minutes and at room temperature for 3 h. The crude reaction mixture was then poured onto ice, the layers were separated and the organic phase was washed with NaHCO3 and brine. After drying over MgSO4 and filtration the solvent was evaporated, which afforded 0.43 g of crude product. The dark oil was purified by flash chromatography using EtOAc and cyclohexane as eluents, affording 0.2 g (37%) of 4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde as colourless solid.

reactant | AlCl3 | 1 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | nitromethane | 0.5 ml | [N+](=O)([O-])C | CH3NO2
reactant | 4-Methyl-4H-benzo[1,4]oxazin-3-one | 3.06 mmol, 0.5 g | CN1C(COC2=C1C=CC=C2)=O | C9H9NO2
reactant | bis-chloromethyl-methylether | 0.36 ml | ClCC(CCl)OC(CCl)CCl | C6H10Cl4O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 0.2 g, 37% | CN1C(COC2=C1C=C(C=C2)C=O)=O | C10H9NO3
